Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin / Penicillins
 
Attending: ___.
 
Chief Complaint:
"I was found on top of a parking deck by police" 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with hx pedatric 
diagnosis of ADHD, cannabis use disorder, with no prior history 
of psychiatric hospitalizations or suicide attempts, presenting 
to the ED after patient was found on the top floor of a parking 
garage by security, attempting to climb onto outside railing. 
Patient upon arrival appeared acutely intoxicated with BAL of 
304. 

As per my evaluation this morning ___: 

On sober re-evaluation, Mr. ___ endorsed passive suicidal 
ideation in the setting of multiple psychosocial stressors 
including loss of his job in ___. Mr. ___ recounted events 
leading up to coming to the ED yesterday, stating that he began 
drinking with his girlfriend ___ during the day at a bar. He 
then met up with his friends at night to continue drinking at a 
bar near ___. He states that he "got way too drunk and blacked 
out", then does not remember anything until he talked to a 
police officer on the roof of the parking garage. He states that 
this has never happened before and he is surprised and concerned 
about this, stating that he does not believe it was with the 
intention of wanting to harm himself but finds it is 
uncharacteristic of him to wander as opposed to going home via 
cab. Patient at this time endorses passive suicidal thoughts due 
to feeling "lost" and due to having a lack of clear 
direction/plan regarding his future as he has not completed 
college and is currently unemployed with no prospective job 
opportunities. These thoughts are egodystonic in nature but he 
has thought multiple times about wanting to kill himself over 
the last year with multiple plan (unclear intent, has not taken 
steps towards acting upon these plans, and has no history of 
suicide attempts). Patient reports that he does not think he 
would ever act upon these plans because he would feel too guilty 
for "putting [his] family through that" .Patient reports that 
despite feeling well supported by his parents and his girlfriend 
(who he currently lives with), he has continued to feel 
profoundly depressed and feels that he is a burden to her. He 
has not told his girlfriend he is in the hospital and instead 
told her he is currently at his friends home. 

Currently Mr. ___ endorses depressed mood, anhedonia, 
increasingly isolative behaviors (avoiding friends/family), poor 
sense of self worth, intense guilt, hopelessness and 
helplessness. He also endorses ongoing anxious ruminative 
thoughts and worried about finances and the future. He reports 
sleep onset insomnia and reports poor self care/hygiene, stating 
that he does not shower as frequently anymore. Patient reports 
that he has felt depressed "for a long time" but states that the 
symptoms worsened over the last year. Patient quit his job in 
___ as a ___ working at a ___ due to feeling overwhelmingly 
stressed and anxious, and felt that "the pay wasn't enough". He 
reports that despite quitting his job, he has continued to feel 
depressed albeit believes his mood has improved slightly over 
the last month. Patient reports that he cut down on daily 
marijuana use over the last month and in lieu began drinking 
more often, approximately 3 beers most nights of the week but 
denies bringing large amounts of alcohol and denies hx of 
withdrawal. 

Upon arrival to the unit, patient reported feeling anxious about 
being on an inpatient psychiatric unit and about the stigma 
associated with psychiatric admission. However he feels more 
open to receiving treatment compared to this morning after 
discussing further with his girlfriend. He reports willingness 
to contract for safety by communicating with staff if he feels 
unsafe. 

COLLATERAL: 

___ ( Girlfriend) ___

- Patient called his girlfriend and informed her he is in the 
hospital. She was present at bedside at 12 ___ on ___. 

During interview, ___ expressed significant concern about Mr. 
___, stating that he has been depressed for the last ___ 
years and has not seen a psychiatrist to a therapist despite her 
attempts to encourage him to see one over the last few months. 
Patient spends most of his time in the home, has been isolating 
himself overall and only communicates with her. He has been 
avoiding doing things he usually enjoys. Regarding self are, 
patient overall has been able to care for himself, showering and 
eating regularly, but has been sleeping "at odd hours all over 
the place". Patient expressed suicidal thoughts to her once 
while he was drunk. Regarding drinking habits, he usually has a 
drink every day but has not binged. She was in agreement that 
patient should be admitted inpatient given significant concern 
for safety. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnosed with ADHD at about the age of ___ at the ___ 
___. Was tried on Concerta without benefit, on 
Focalin with unclear results and on Adderall for the longest 
time.  He felt that if before he would be unable to focus on a 
school lecture, on it he would "obsess" over minutia like 
quality of hand writing in his notes, but would still miss the 
point. 

Hospitalizations: Denies hx of prior hospitalizations 
Current treaters and treatment: Denies current treaters or prior
hx of psychiatrist/ therapists 
Medication and ECT trials: Denies 
Self-injury: Denies 
Harm to others: Denies 
Access to weapons: Denies; has knives at home but no firearms. 
 
PAST MEDICAL HISTORY:
Pediatric diagnosis of ADHD, was on adderall but no longer
taking. 
Denies hx of neurologic illnesses including seizures, migraine,
or TBI. 

MEDICATIONS including vitamins, herbs, supplements, OTC:
Denies 

ALLERGIES: 
NKDA
 
Social History:
SUBSTANCE ABUSE HISTORY:
Reports drinking alcohol multiple times per week, reports
escalating alcohol use for the last month, usually drinks beer
but alternates with hard liquor as well. Does not usually binge
but used to binge regularly in his early ___ with history of 
blackouts. Denies hx of complicated withdrawal. Denies tobacco 
use. Reports using marijuana daily until 1 month ago when he 
stopped. 

FORENSIC HISTORY: ___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Sister has ADHD and received "therapy and medications for 
anxiety and/or depression. 
M. aunt ___ and alcoholism
P. uncles excessive alcohol use 
cousin substance abuse.

 
Physical Exam:
EXAM: 
*VS:  T 97.6   HR   94   BP  119/81  RR 18  Or sat 95% RA
 
General: Age appearing male, dressed in hospital attire,
appearing somewhat disheveled. 
  HEENT: Normocephalic, atraumatic. PERRLA, EOMI. Oropharynx
clear.
  Neck: Supple.
  Back: No significant deformity.
  Lungs: CTA ___. No crackles, wheezes, or rhonchi.
  CV: Regular rate and rhythm, no murmurs/rubs/gallops.
Tachycardic.  
  Abdomen: +BS, soft, nontender, nondistended. No palpable 
masses
or organomegaly.
  Extremities: No clubbing, cyanosis, or edema.
  Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
  pupils symmetry and responsiveness to light and accommodation:
PERRLA
  visual fields: full to confrontation
  EOM:  full
  facial sensation to light touch in all 3 divisions: equal
  facial symmetry on eye closure and smile:  symmetric
  hearing bilaterally to rubbing fingers: normal
  phonation: normal
  head turning and shoulder shrug:  intact
  tongue: midline
  Motor: muscle bulk and tone normal, strength is full
bilaterally
   Gait: normal posture, normal gait
  
 Cognition: 
 Wakefulness/alertness: Awake, alert, in no acute distress 
 *Attention: Attentive to interview. 
 *Orientation: Oriented to person, place, date, year . 
 Executive function (go-no go, Luria, trails, FAS): Deferred
 *Memory:  Patient reports events leading up to drinking with 
his
friends but states he has a large memory lapse in setting of
intoxication. 
 *Fund of knowledge:  Appropriate to educational level. 
Speech: Normal volume, intonation, and prosody. 
 *Language:  Native ___ speaker, no paraphasic errors noted
on interview. 
 
Mental Status:
 *Appearance:   Age appearing male, dressed in hospital attire,
appears somewhat disheveled. 
 Behavior:   Calm, cooperative, tearful throughout interview. 
 *Mood and Affect:   "Depressed"/ dysthymic, tearful, anxious
appearing at times though reactive. 
 *Thought process:  Linear, goal directed. 
 *Thought Content: Endorses passive suicidal ideation with
multiple vague plans and no steps taken towards acting upon 
these
plans. Denies any AVH or delusional thought content. 
 *Judgment and Insight: limited/ limited 

 
Pertinent Results:
___ 04:05AM BLOOD WBC: 8.1 RBC: 5.25 Hgb: 16.4 Hct: 48.0
MCV: 91 MCH: 31.2 MCHC: 34.2 RDW: 12.5 RDWSD: 42.___ 
___ 04:05AM BLOOD Neuts: 56.2 Lymphs: ___ Monos: 6.9 Eos:
1.1 Baso: 0.6 Im ___: 1.0* AbsNeut: 4.53 AbsLymp: 2.76 AbsMono:
0.56 AbsEos: 0.09 AbsBaso: 0.05 
___ 04:05AM BLOOD Plt Ct: 275 
___ 04:05AM BLOOD Glucose: 97 UreaN: 9 Creat: 1.1 Na: 144 
K:
4.3 Cl: 106 HCO3: 25 AnGap: 13 
___ 04:05AM BLOOD ASA: NEG Ethanol: ___ Acetmnp: NEG
Tricycl: NEG 
___ 03:45AM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NORMAL pH: 6.0
Leuks: NEG 
___ 03:45AM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

___ 06:54AM BLOOD ALT-36 AST-25 AlkPhos-65 TotBili-0.6
___ 06:54AM BLOOD %HbA1c-5.1 eAG-100
___ 06:54AM BLOOD Triglyc-77 HDL-45 CHOL/HD-2.6 LDLcalc-59
___ 06:54AM BLOOD Cholest-119
___ 04:05AM BLOOD TSH-3.___ISCHARGE SUMMARY

1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and a 3-day notice expiring ___. 
 At that time the patient was not deemed to be at risk of harm 
to self and the patient was discharged.  They were also granted 
monitored sharps access, placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted. No behavioral incidents, security 
intervention, or restraints. 

2. PSYCHIATRIC:
 #) Generalized anxiety disorder
 #) Unspecified depressive disorder
 1) Initial presentation included depressive symptoms with poor 
sense of self worth, ambivalence of future, intense guilt, 
feeling burden to his family. He endorsed passive suicidal 
ideation with vague plans (no specifics), without further 
research or steps towards acting on plans; cited family and 
girlfriend as protective factors. Patient also endorsed lifelong 
future-oriented worries. On exam, patient slightly anxious, 
___, linear thinking, fair insight into problematic drinking 
and mental health needs. 
 2) Diagnostically, patient does meet criteria for GAD with 
future-oriented worries and significant anxious component to 
depressive symptoms. Considered major depressive disorder vs. 
substance-induced mood disorder given daily drinking and recent 
withdrawal from cannabis. Given substantial struggle since job 
loss, could also consider adjustment disorder, but mood symptoms 
appeared to precede and likely contribute to quitting job. 
 3) Interventions proposed included medication trials, discussed 
SSRI, PRN hydroxyzine, PRN Ramelteon. Patient opted to begin 
sertraline, titrated to 50mg po daily, tolerated well with 
minimal side effects (minor indigestion). He declined PRN 
hydroxyzine, but occasionally utilized Ramelteon 8mg po nightly 
for insomnia. Patient may continue melatonin on discharge if 
sleep disturbances persist. Patient was quite engaged in group 
milieu and endorsed coping skills benefits with meditation. 
 4) Following intervention, patient endorsed minimal improvement 
in anxiety and slightly poor sleep, which he attributed to 
stresses of being on the inpatient unit. He denied suicidal 
ideation on unit, and was able to engage in safety planning 
(reach out to family/girlfriend, providers, crisis line, 911 or 
return to ED) and recognize that inpatient hospitalization was 
an option if he was struggling in the future.  
 5) Future interventions include further titration of 
sertraline; alternate SSRI/SNRI trial, mirtazapine if sleep and 
mood disturbances persist. Given significant family substance 
use history, and recent intoxication/cannabis use, would avoid 
medications with abuse potential, including benzodiazepines, 
gabapentin, bupropion. 

3. SUBSTANCE USE DISORDERS:
 #) Alcohol use disorder, intermittent binge drinking
 #) Cannabis use disorder, early remission
Provided psychoeducation, substance use counseling, including 
increased risk of suicide. Patient planned to maintain total 
abstinence from alcohol and cannabis for a minimum of several 
months. 

4. MEDICAL
 #) EKG: Patient with bradycardia, borderline QRS (120, 118), 
and nonspecific interventricular conduction delay. Medicine 
recommended repeat EKG, and cardiology involvement given family 
history of arrhythmia and cardiogenic syncope. EP cardiology 
reviewed EKGs and stated no contraindication to beginning SSRI. 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient was pleasant, polite, 
and sociable within the milieu. Medication adherent. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral information from girlfriend and parents. His father 
was involved in family meeting for aftercare and treatment 
planning.

 #) INTERVENTIONS
 - Medications: sertraline, Ramelteon
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: outpatient referral for therapy
 - Behavioral Interventions: cognitive reframing, challenging 
catastrophic thinking, contingency planning
 - Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting sertraline(hyponatremia, serotonin syndrome, platelet 
dysfunction, GI distress), and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself after being found trying to 
climb over railing in parking garage.  Their static factors 
noted at that time include chronic mental illness, history of 
substance abuse, male gender, Caucasian race, unemployment.   
The modifiable risk factors included impulsivity, active 
intoxication, no psychotropic regimen, no outpatient providers 
were addressed by beginning medication regimen, therapeutic 
milieu, and connecting to therapist.  Finally, the patient is 
being discharged with many protective risk factors, including 
supportive family, intelligence, fair insight, linear thinking, 
stable housing. Based on the totality of our assessment at this 
time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 100 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GAD
alcohol use disorder
unspecified depressive disorder
cannabis use disorder, 1 month remission
ADHD by history

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
Mental Status Exam:
 *Appearance: no acute distress; well-developed, appears stated
age, wearing button-down shirt, clean
 *Behavior: calm, cooperative, forthcoming, pleasant. 
appropriate
eye contact. 
 *Mood and Affect: 'good' / euthymic, less anxious
 *Thought process / *associations: linear, goal-direct, 
coherent.
no looseness of associations. 
 *Thought Content: denies SI. agrees to contact providers, reach 
out to girlfriend/parents, crisis line, 911, or return to ED if 
suicidal urges recur. future-oriented, plans to stop drinking 
completely for several months. no HI. no AVH. not responding to 
internal
stimuli. no delusions elicited.
 *Judgment and Insight: poor / poor
.
COGNITION:
 Wakefulness/alertness: Alert
 *Attention: intact to interview
 *Orientation: oriented
 *Memory: long-term grossly intact
 *Speech: fluent, spontaneous, clear. normal volume, rate, tone,
prosody. 
 *Language: fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___